US05635527
In the same manner as in Example 15 (3), 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid (1.02 g, 3.01mmol) and ethyl (S)-3-(4-aminophenyl)-2-(trifluoromethylsulfonylamino)propionate (1.03 g, 3.03 mmol) were condensed. The reaction mixture was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1-1/2) to give 1.31 g of ethyl (S)-3-[4-[[5-(benzyloxycarbonylamidino)-2-benzofuranyl]carbonylamino]phenyl]-2-(trifluoromethylsulfonylamino)propionate as a colorless solid (65%). Ethanol (200 ml), 10% palladium-carbon (450 mg) and 1N hydrochloric acid (2 ml) were added to this solid (1.30 g, 1.97 mmol) and the mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The reaction mixture was filtrated and low boiling matters were distilled away from the filtrate under reduced pressure to quantitatively give 1.11 g of hydrochloride of compound (54) as a colorless solid.

reactant | 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid | 3.01mmol, 1.02 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C18H14N2O5
reactant | ethyl (S)-3-(4-aminophenyl)-2-(trifluoromethylsulfonylamino)propionate | 3.03 mmol, 1.03 g | NC1=CC=C(C=C1)C[C@@H](C(=O)OCC)NS(=O)(=O)C(F)(F)F | C12H15F3N2O4S
product | ethyl (S)-3-[4-[[5-(benzyloxycarbonylamidino)-2-benzofuranyl]carbonylamino]phenyl]-2-(trifluoromethylsulfonylamino)propionate | 1.31 g, 65% | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)C[C@@H](C(=O)OCC)NS(=O)(=O)C(F)(F)F)C1 | C30H27F3N4O8S
